US04876257
6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-3-propanylthio]purine
Pentane (10 mL) was added to sodium hydride (0.3 g, 6.3 mmol, 50% suspension in mineral oil), and the mixture was stirred under nitrogen. The pentane was decanted, anhydrous DMF (12 mL) was added and the suspension was cooled to 0° C. 6-Mercaptopurine monohydrate (0.93 g, 5.5 mmol) was added in small portions over a 15 min period. To the light beige, slightly hazy mixture was added, after an additional 10 min at 0° C., 1-(1-chloro-3-propanyl)-4-[bis(4-fluorphenyl)methyl]piperazine (2.0 g, 5.5 mmol) dissolved in anhydrous DMF (4mL) within 5 min. After addition was complete, the mixture was allowed to warm to room temperature and it was stirred under nitrogen for 4 days. The DMF was evaporated in vacuo (1 mm Hg) at 50° C. The residue was triturated in methylene chloride and the mixture was filtered through celite. The filtrate was washed with water (2×50 mL), dried (sodium sulfate), filtered, and evaporated in vacuo to give the crude product (2.79 g). Silica gel flash chromatography using 10% methanol/methylene chloride gave the desired product (1.18 g, 45%) mp 90°-93° C. 300 MHz 1H NMR (CDCl3) δ: 8.60 (s, 1H), 8.14 (s, 1H), 7.31 (m, 4H), 6.95 (m, 4H), 4.17 (s, 1H), 3.38 (m, 2H), 2.35-2.6 (m, 10H), 2.02 (m, 2H). DCI/MS (M+1) 481.

reactant | Pentane | 10 mL | CCCCC | C5H12
reactant | sodium hydride | 6.3 mmol, 0.3 g | [H-].[Na+]
reactant | 6-Mercaptopurine monohydrate | 5.5 mmol, 0.93 g | O.SC1=C2NC=NC2=NC=N1
reactant | 1-(1-chloro-3-propanyl)-4-[bis(4-fluorphenyl)methyl]piperazine | 5.5 mmol, 2.0 g | ClCCCN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H23ClF2N2
solvent | DMF | 4mL | CN(C)C=O | C3H7NO
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | 6-[1-[1-[Bis(4-fluorophenyl)methyl]piperazin-4-yl]-3-propanylthio]purine | 1.18 g, 45% | FC1=CC=C(C=C1)C(N1CCN(CC1)CCCSC1=C2NC=NC2=NC=N1)C1=CC=C(C=C1)F | C25H26F2N6S
